US06124313
A1. 3-Chloro-2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine
5.0 g (18.6 mmol) of 2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine hydrochloride, prepared from 8-amino-2-methylimidazo[1,2-a]pyridine and pivaloyl chloride, m.p. 229-230° C., are dissolved in glacial acetic acid (20 ml) and chlorine gas is slowly passed in at 15° C. until the reaction has ended according to TLC checking (about 20 min). The solvent is then distilled off, the residue is taken up in ethyl acetate/water (in each case 30 ml), and the solution is rendered basic and extracted with saturated sodium hydrogen carbonate solution. The extract is then extracted again with ethyl acetate (3×30 ml). The combined organic extracts are washed with water (50 ml), dried over magnesium sulfate and concentrated. The residue is purified by chromatography on silica gel (eluent: toluene/dioxane=9:1). After concentration of the fractions of Rf =0.2, the title compound (4.1 g, 83%) is obtained as a colorless solid. M.p. 117-118° C.

reactant | 2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine hydrochloride | 18.6 mmol, 5.0 g | Cl.CC=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1
reactant | 8-amino-2-methylimidazo[1,2-a]pyridine | NC=1C=2N(C=CC1)C=C(N2)C | C8H9N3
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 4.1 g, 83% | ClC1=C(N=C2N1C=CC=C2NC(C(C)(C)C)=O)C | C13H16ClN3O
